US07176242B2
Step 3: Methyl 8-bromo-4-butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
To an ice-cold, stirred solution of Methyl 3-bromo-5-(butylamino)-4-hydroxybenzoate (440 mg) and sodium bicarbonate (280 mg) in 1:1 isobutyl methyl ketone/water (10 mL) was added chloroacetyl chloride (226 mg). The mixture was stirred for 1 h, warmed to room temperature, and heated at reflux for 14 h. The mixture was cooled to room temperature, diluted with chloroform, and the layer separated. The organic layer was washed with water, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to give a white solid: 1H NMR (300 MHz, CDCl3) δ 7.94, 7.62, 4.76, 3.98, 3.93, 1.65, 1.43, 0.97, which was used in the next step without further purification or characterization.

reactant | Methyl 3-bromo-5-(butylamino)-4-hydroxybenzoate | 440 mg | BrC=1C=C(C(=O)OC)C=C(C1O)NCCCC | C12H16BrNO3
reactant | sodium bicarbonate | 280 mg | C([O-])(O)=O.[Na+]
reactant | isobutyl methyl ketone water | 10 mL | CC(=O)CC(C)C.O
reactant | chloroacetyl chloride | 226 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 8-bromo-4-butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | BrC1=CC(=CC=2N(CCOC21)CCCC)C(=O)OC | C14H18BrNO3
